US07960369B2
methyl 3-{4-[(4-{[(3-methylbutyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoate
A mixture of N-(3-methylbutyl)-4-phenyl-1,3-thiazol-2-amine (370 mg), sodium hydride (60% oil, 50 mg) and N,N-dimethylformamide (5 mL) was stirred at room temperature for 1 hr. Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate (318 mg) was added to the reaction mixture, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water, acidified with 1N aqueous hydrochloric acid solution and extracted with ethyl acetate. The ethyl acetate layer was dried using Presep Dehydration tube (manufactured by Wako Pure Chemical Industries, Ltd.), and concentrated. The residue was purified by preparative HPLC (gradient cycle A) to give the title compound (250 mg, yield 47%) as a yellow oil.

reactant | N-(3-methylbutyl)-4-phenyl-1,3-thiazol-2-amine | 370 mg | CC(CCNC=1SC=C(N1)C1=CC=CC=C1)C | C14H18N2S
reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate | 318 mg | ClCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H19ClO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | methyl 3-{4-[(4-{[(3-methylbutyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoate | 250 mg, yield 47% | CC(CCN(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1)C | C32H36N2O3S
